US08530059B2
3-Methylphenyl borate (1.3 mmol), 2-chloro-6-methoxyquinoline (1 mmol), tetrakis(triphenylphosphine) palladium(O) (0.05 mmol) and potassium carbonate (3 mmol) were dissolved in THF (30 mL) and H2O (10 mL). The resulting solution was stirred in a bath at 100° C. for 24 hours. After completion of the reaction, the solvents were removed. The reaction mixture was extracted with dichloromethane and water and distilled under reduced pressure. The resulting residue was purified by silica gel column chromatography. The eluate was distilled under reduced pressure. The residue was recrystallized from dichloromethane and petroleum ether, and filtered to yield 2-(3-methylphenyl)-6-methoxyquinoline as a solid.

reactant | 3-Methylphenyl borate | 1.3 mmol | B(OC1=CC(=CC=C1)C)([O-])[O-]
reactant | 2-chloro-6-methoxyquinoline | 1 mmol | ClC1=NC2=CC=C(C=C2C=C1)OC | C10H8ClNO
reactant | potassium carbonate | 3 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(O) | 0.05 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-(3-methylphenyl)-6-methoxyquinoline | CC=1C=C(C=CC1)C1=NC2=CC=C(C=C2C=C1)OC | C17H15NO
